US07247734B2
Synthesis of 4-Chloro-6-(4-phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol
This compounds was synthesised in the same manner as described above. 6-Chloro-7-hydroxy-3-phenyl-chromen-4-one (0.4 g, 1.47 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). 4-Chloro-6-(4-phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol precipitated out on quenching as a pale yellow (0.37 g, 88%); Rf 0.3 Cf SM 0.7 ethyl acetate/hexane (75/25).

reactant | 6-Chloro-7-hydroxy-3-phenyl-chromen-4-one | 1.47 mmol, 0.4 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC=CC=C1)=O | C15H9ClO3
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Chloro-6-(4-phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=CC=CC=C1)O)O | C15H11ClN2O2
